US20010011096A1
425.5 mg (1 mmol) of 3-methyl-2-methylimino-7-(4-trifluoromethylphenyl)-2,3,8,8a-tetrahydroindeno[1,2-d]thiazol-3a-ol hydrobromide are suspended in 10 ml of glacial acetic acid and stirred at 100° C. for 3 h. The solvent is then evaporated off in vacuo, and the residue is taken up in water, filtered, washed with water and dried in vacuo. Methyl[3-methyl-7-(4-trifluoromethylphenyl)-3,8-dihydroindeno[ 1,2-d]thiazol-2-ylidene]amine hydrobromide is obtained with a melting point of 230-233° C.

reactant | 3-methyl-2-methylimino-7-(4-trifluoromethylphenyl)-2,3,8,8a-tetrahydroindeno[1,2-d]thiazol-3a-ol hydrobromide | 1 mmol, 425.5 mg | Br.CN1C(SC2C1(C=1C=CC=C(C1C2)C2=CC=C(C=C2)C(F)(F)F)O)=NC
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | Methyl[3-methyl-7-(4-trifluoromethylphenyl)-3,8-dihydroindeno[ 1,2-d]thiazol-2-ylidene]amine hydrobromide | Br.CN=C1SC2=C(N1C)C=1C=CC=C(C1C2)C2=CC=C(C=C2)C(F)(F)F | InChI=1S/C19H15F3N2S.BrH/c1-23-18-24(2)17-14-5-3-4-13(15(14)10-16(17)25-18)11-6-8-12(9-7-11)19(20,21)22;/h3-9H,10H2,1-2H3;1H
